US06228877B1
3,4-Bis-(1-methyl-6-amino-1H-indol-3-yl)-pyrrole-2,5-dione (50 mg, 0.13 mmole) was dissolved in tetrahydrofuran (2.5 mL) and cooled to 0° C. Triethylamine (38.5 μl, 0.27 mm) was added followed by acetyl chloride (19.4 pl, 0.27 mmole). The reaction was stirred for 30 min, then concentrated. The reaction mixture was dissolved in chloroform, washed with 0.1 N hydrochloric acid and the organic was dried over magnesiun sulfate, filtered and concentrated. The product was purified by column chromatography in 5% methanol/ethyl acetate to give N-{3-[4-(6-acetylamino-1-methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-1-methyl-1H-indol-6-yl}-acetamide (14 mg, 23%).

reactant | 3,4-Bis-(1-methyl-6-amino-1H-indol-3-yl)-pyrrole-2,5-dione | 0.13 mmole, 50 mg | CN1C=C(C2=CC=C(C=C12)N)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)N)C)=O)=O | C22H19N5O2
reactant | Triethylamine | 38.5 μl | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.27 mmole | C(C)(=O)Cl | C2H3ClO
reactant | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | N-{3-[4-(6-acetylamino-1-methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-1-methyl-1H-indol-6-yl}-acetamide | 14 mg, 23% | C(C)(=O)NC1=CC=C2C(=CN(C2=C1)C)C1=C(C(NC1=O)=O)C1=CN(C2=CC(=CC=C12)NC(C)=O)C | C26H23N5O4
